US09193669B2
Triethylamine (45 mL) was added to a mixture of N-(3-bromophenyl)-N-(cyclohexylmethyl)-2,2,2-trifluoroacetamide (3.8 g, 10.4 mmol), tert-butyl prop-2-ynylcarbamate (2.42 g, 15.6 mmol), Pd(Ph3P)4 (0.6 g, 0.52 mmol) and CuI (0.1 g, 0.52 mmol) and flushed for 15 min with argon. The reaction mixture was stirred for 16 h at 90° C. The reaction mixture was cooled, diluted with ethyl acetate and filtered through Celite bed and the filtrate was concentrated under reduced pressure. Purification by column chromatography (100-200 silica mesh 5% to 10% EtOAc—hexane) gave tert-butyl 3-(3-(N-(cyclohexylmethyl)-2,2,2-trifluoroacetamido)phenyl)prop-2-ynylcarbamate as a yellow semi-solid. Yield (2.1 g, 50%); 1H NMR (400 MHz, DMSO-d6) δ 7.49-7.48 (m, 2H), 7.43-7.41 (m, 2H), 3.99 (bs, 2H), 3.58 (bs, 2H), 1.64-1.57 (m, 6H), 1.39 (s, 9H), 1.19-1.12 (m, 3H), 0.95-0.89 (m, 2H).

reactant | N-(3-bromophenyl)-N-(cyclohexylmethyl)-2,2,2-trifluoroacetamide | 10.4 mmol, 3.8 g | BrC=1C=C(C=CC1)N(C(C(F)(F)F)=O)CC1CCCCC1 | C15H17BrF3NO
reactant | tert-butyl prop-2-ynylcarbamate | 15.6 mmol, 2.42 g | C(C#C)NC(OC(C)(C)C)=O | C8H13NO2
catalyst | Pd(Ph3P)4 | 0.52 mmol, 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.52 mmol, 0.1 g | [Cu]I
solvent | Triethylamine | 45 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl 3-(3-(N-(cyclohexylmethyl)-2,2,2-trifluoroacetamido)phenyl)prop-2-ynylcarbamate | C1(CCCCC1)CN(C(C(F)(F)F)=O)C=1C=C(C=CC1)C#CCNC(OC(C)(C)C)=O | C23H29F3N2O3
